US06514971B1
Aluminium trichloride (2.6 g, 19 mmol) was added in portions to a suspension of 4-chloro-7-methoxycinnoline (0.9 g, 3.8 mmol), (J. Chem. Soc. 1955, 2100), in benzene (15 ml) and the mixture was heated at reflux for 1 hour. The solvent was removed by evaporation and the residue was partitioned between ice/water and ethyl acetate. Aqueous saturated sodium chloride solution was added and the organic layer was separated. The organic layer was washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with ether, collected, filtered and dried under vacuum to give 4-chloro-7-hydroxycinnoline (368 mg, 53%).

reactant | Aluminium trichloride | 19 mmol, 2.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4-chloro-7-methoxycinnoline | 3.8 mmol, 0.9 g | ClC1=CN=NC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-7-hydroxycinnoline | 368 mg, 53% | ClC1=CN=NC2=CC(=CC=C12)O | C8H5ClN2O
